US04760163
A solution of 26.6 g of isopropyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate in 1.7 l of methanol is treated with a solution of 3.08 g of sodium hydroxide in 700 ml of water. The reaction mixture is stirred at room temperature for 15 hours, during which 2.1 l of water are continuously added dropwise. Stirring is continued for a further 15 hours during which the pH value of the mixture reaches 9-10. The mixture is acidified with concentrated hydrochloric acid and concentrated under reduced pressure at approx. 20° C. to a volume of approx. 300 ml. The crystals are filtered off by suction, rinsed with a little water and dried at 40°-50° C. under reduced pressure. 2-Chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid, m.p. 270°-273° C., is obtained.

reactant | isopropyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | 26.6 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C18H18ClFN2O4
reactant | sodium hydroxide | 3.08 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1.7 l | CO | CH4O
solvent | water | 700 ml | O | H2O
solvent | water | 2.1 l | O | H2O
product | 2-Chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C15H12ClFN2O4
